US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.043 g, 0.24 mmol), (E)-4-bromo-3-(1-methyl-1H-indazol-4-yloxy)-but-2-enoic acid ethyl ester (0.073 g, 0.22 mmol) and N,N-diisopropylethylamine (0.070 g, 0.54 mmol) in acetonitrile (6 mL) in a sealed tube was heated at 90° C. for 18 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 0% to 100% diethyl ether/hexanes) to afford (S)-2-[(E)-3-ethoxycarbonyl-2-(1-methyl-1H-indazol-4-yloxy)-allylamino]-4-methyl-pentanoic acid methyl ester (0.055 g, 66%).

reactant | (L)-leucine methyl ester hydrochloride | 0.24 mmol, 0.043 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | (E)-4-bromo-3-(1-methyl-1H-indazol-4-yloxy)-but-2-enoic acid ethyl ester | 0.22 mmol, 0.073 g | C(C)OC(\C=C(/CBr)\OC1=C2C=NN(C2=CC=C1)C)=O | C14H15BrN2O3
reactant | N,N-diisopropylethylamine | 0.54 mmol, 0.070 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-2-[(E)-3-ethoxycarbonyl-2-(1-methyl-1H-indazol-4-yloxy)-allylamino]-4-methyl-pentanoic acid methyl ester | 0.055 g, 66% | COC([C@H](CC(C)C)NC/C(=C\C(=O)OCC)/OC1=C2C=NN(C2=CC=C1)C)=O | C21H29N3O5
